US08865698B2
(R)-3-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-1,1-dimethylurea
To a DCM (0.8 mL) solution of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (Preparation B; 30 mg, 0.095 mmol) was added CDI (31 mg, 0.19 mmol) at ambient temperature in one portion. After stirring two hours, dimethylamine (0.095 mL×2 N THF, 0.19 mmol) was added in one portion. The reaction was stirred for 5 minutes, then concentrated, and the residue was directly purified by reverse-phase column chromatography, eluting with 0 to 60% acetonitrile/water to yield the final product as a yellowish foamy powder (33 mg, 90% yield). MS (apci) m/z=387.2 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.095 mmol, 30 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H15F2N5
reactant | CDI | 0.19 mmol, 31 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | dimethylamine | 0.19 mmol, 2 N, 0.095 mL | CNC | C2H7N
solvent | DCM | 0.8 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-1,1-dimethylurea | 33 mg, 90% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(N(C)C)=O | C19H20F2N6O
